US08497274B2
(iii) Production of methyl 2-amino-6-[4-fluoro-3-({[3-(trifluoromethyl)phenyl]acetyl}amino)phenoxy]-1,3-benzothiazole-7-carboxylate
To a solution of methyl 5-amino-2-[4-fluoro-3-({[3-(trifluoromethyl)phenyl]acetyl}amino)phenoxy]benzoate (3.00 g, 6.09 mmol) in acetic acid (70 mL) was added potassium thiocyanate (2.37 g, 24.4 mmol), and the mixture was stirred at room temperature for 10 min. A solution of bromine (1.27 mg, 7.92 mmol) in acetic acid (35 mL) was added dropwise to the obtained solution over 20 min. After the completion of the dropwise addition, the mixture was stirred at room temperature for 36 hr. Insoluble material was filtered off and washed with ethyl acetate (200 mL). The filtrate and washings were combined and the mixture was concentrated under reduced pressure. The obtained residue was suspended in ethyl acetate (100 mL), and the suspension was washed successively with saturated aqueous sodium hydrogen carbonate solution (2×100 mL) and saturated brine (100 mL), and dried over anhydrous magnesium sulfate. Insoluble material was filtered off, the filtrate was purified by basic silica gel column chromatography (eluate: ethyl acetate), and the obtained solution was concentrated under reduced pressure. The obtained residue was recrystallized from ethyl acetate/n-hexane (1:1) to give the title compound (2.78 g, 88%) as a white powder.

reactant | methyl 5-amino-2-[4-fluoro-3-({[3-(trifluoromethyl)phenyl]acetyl}amino)phenoxy]benzoate | 6.09 mmol, 3.00 g | NC=1C=CC(=C(C(=O)OC)C1)OC1=CC(=C(C=C1)F)NC(CC1=CC(=CC=C1)C(F)(F)F)=O | C23H18F4N2O4
reactant | potassium thiocyanate | 24.4 mmol, 2.37 g | [S-]C#N.[K+]
reactant | bromine | 7.92 mmol, 1.27 mg | BrBr | Br2
solvent | acetic acid | 70 mL | C(C)(=O)O | C2H4O2
solvent | acetic acid | 35 mL | C(C)(=O)O | C2H4O2
product | methyl 2-amino-6-[4-fluoro-3-({[3-(trifluoromethyl)phenyl]acetyl}amino)phenoxy]-1,3-benzothiazole-7-carboxylate | 2.78 g, 88% | NC=1SC2=C(N1)C=CC(=C2C(=O)OC)OC2=CC(=C(C=C2)F)NC(CC2=CC(=CC=C2)C(F)(F)F)=O | C24H17F4N3O4S
